US08378104B2
Step J: 5-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine
To a cooled (−78° C.) solution of 3-bromo-5-methoxythieno[2,3-c]pyridine (14.7 mg, 0.0602 mmol) in THF (2.5 mL) was added dropwise 1.60 M n-BuLi in hexane (56.4 μL, 0.0903 mmol) in 5 min under an atmosphere of nitrogen. After stirring at −78° C. for 1 h, 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (18.8 μL, 0.0903 mmol) was added dropwise. The combined mixture was stirred at −78° C. for another 1 h. The temperature was then gradually raised to RT in 40 min. The reaction was then quenched by addition of MeOH (5 mL) and purified by ISCO chromatography (0 to 20% EtOAc:hexane) to afford 6.6 mg (38%) of the title compound as a light yellow solid. 1H NMR (400 MHz, dioxane-d8): δ 8.72 (d, J=1.2 Hz, 1 H), 8.29 (s, 1 H), 7.48 (d, J=0.8 Hz, 1 H), 3.93 (s, 3 H), 1.35 (s, 12 H); MS (ESI): 292.11 [M+H]+; HPLC tR=1.71 min (TOF: polar—3 min).

reactant | 3-bromo-5-methoxythieno[2,3-c]pyridine | 0.0602 mmol, 14.7 mg | BrC1=CSC2=CN=C(C=C21)OC | C8H6BrNOS
reactant | n-BuLi | 1.60 M | [Li]CCCC
reactant | hexane | 0.0903 mmol, 56.4 μL | CCCCCC | C6H14
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.0903 mmol, 18.8 μL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 5-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine | 6.6 mg, 38% | COC=1C=C2C(=CN1)SC=C2B2OC(C(O2)(C)C)(C)C | C14H18BNO3S
